US07553965B2
2,3-Dihydro-benzofuran-5-sulfonic acid [3-(2,2a,4,5-tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-amide hydrochloride (28)
2,3-Dihydro-benzofuran-5-sulfonyl chloride (24.05 mg, 0.11 mmol) was added to a solution of 3-(2,2a,4,5-Tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propylamine dihydro-chloride (28.92 mg, 0.1, mmol) and N,N′-diisopropylethylamine (51.7 mg, 0.4 mmol) in CH2Cl2 (10 mL) and the mixture was stirred overnight at room temperature. The resulting solution was washed with water (3×10 mL), dried over Na2SO4 and evaporated to dryness. The free base was dissolved in ethyl acetate (1 ml). A 2.8 M solution of hydrogen chloride in ethanol (0.10 mL) was then added. The product was crystallized and collected by filtration, and vacuum dried to give a white solid (33 mg, 77%).

reactant | 2,3-Dihydro-benzofuran-5-sulfonyl chloride | 0.11 mmol, 24.05 mg | O1CCC2=C1C=CC(=C2)S(=O)(=O)Cl | C8H7ClO3S
reactant | 3-(2,2a,4,5-Tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propylamine dihydro-chloride | 28.92 mg | Cl.Cl.C1CC2N(CCC3=CC=CC1=C23)CCCN
reactant | N,N′-diisopropylethylamine | 0.4 mmol, 51.7 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2,3-Dihydro-benzofuran-5-sulfonic acid [3-(2,2a,4,5-tetrahydro-1H-3-aza-acenaphthylen-3-yl)-propyl]-amide hydrochloride | 33 mg, 77% | Cl.C1CC2N(CCC3=CC=CC1=C23)CCCNS(=O)(=O)C=2C=CC3=C(CCO3)C2 | InChI=1S/C22H26N2O3S.ClH/c25-28(26,19-6-8-21-18(15-19)10-14-27-21)23-11-2-12-24-13-9-17-4-1-3-16-5-7-20(24)22(16)17;/h1,3-4,6,8,15,20,23H,2,5,7,9-14H2;1H
